US06316637B1
A solution of 2,4-dinitro-6-bromoaniline (1.6 g, 6.1 mmol), tetraethyltin (2.4 ml, 12.2 mmol) and Cl2Pd(PPh3)2 (100 mg) in 10 ml of DMF was stirred at 140° C. for 12 h. Reaction mixture was concentrated in vacuc, yielding an oil which was purified on silica gel column chromatography (CH2Cl2, neat) to provide 0.68 g (3.2 mmol, 33%) of 2,4-dinitro-6-ethylaniline, which was converted to the diamine (0.45 g, 95%) on hydrogenation (H2/Pd—C).

reactant | 2,4-dinitro-6-bromoaniline | 6.1 mmol, 1.6 g | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])Br | C6H4BrN3O4
reactant | tetraethyltin | 12.2 mmol, 2.4 ml | C(C)[Sn](CC)(CC)CC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,4-dinitro-6-ethylaniline | 3.2 mmol, 0.68 g, 33% | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])CC | C8H9N3O4
